Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
___ recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
lightheadedness, chest discomfort

 
Major Surgical or Invasive Procedure:
Coronary artery bypass grafting ___
 
History of Present Illness:
___ yoM w/ a h/o CAD s/p stent->LAD in ___, htn, hyperlipidemia, 
and strong family history of CAD who p/w 48 hours of 
lightheadedness and chest discomfort.  Given these symptoms, his 
wife brought him to ___ ED.  At ___, ECG showed TW 
inversions in ant leads and bradycardia in the ___.  Cardiac 
enzyme were elevated w/ trop 0.29, CK 725, MB 71. Transfer was 
arranged to ___ for potential cath. 

 
Past Medical History:
Dyslipidemia, Hypertension, Percutaneous coronary intervention, 
in ___ w/ stent to LAD at ___.
 
Social History:
___
Family History:
His father and brother both died of MIs at age ___. 
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
VS: T 97.3, BP 100/57, HR 60, RR 25, O2 95% on 2LNC 
Gen: middle aged male in NAD. Oriented x3. 
HEENT: Sclera anicteric. PERRL, EOMI.  no pallor or cyanosis of 
the oral mucosa.  
Neck: Supple no JVd
CV:  RR, normal S1, S2. No S4, no S3.  
Chest:CTA   
Abd: +BS, soft, NTND, No HSM or tenderness. No abdominial 
bruits.  
Ext: No c/c/e. No femoral bruits.  
Pulses:  Right: Carotid 2+ without bruit; Femoral 2+ without 
bruit; 2+ DP  
Left: Carotid 2+ without bruit; Femoral 2+ without bruit; 2+ DP 

Discharge
VST 99  HR 84  BP 124/70  RR 20  02sat 94%RA
Gen NAD
Neuro A&Ox3, nonfocal exam
CV RRR no M/R/G
Pulm CTA-bilat
Abdm soft, NT/+BS
Ext warm palpable pulses. Trace edema-bilat
 
Pertinent Results:
ADMISSION LABS:
___ 08:35PM BLOOD WBC-10.2 RBC-4.44* Hgb-14.6 Hct-41.5 
MCV-93 MCH-32.8* MCHC-35.1* RDW-13.0 Plt ___
___ 08:35PM BLOOD Neuts-76.2* Lymphs-17.1* Monos-5.6 
Eos-0.7 Baso-0.4
___ 08:35PM BLOOD ___ PTT-137.7* ___
___ 08:35PM BLOOD Plt ___
___ 08:35PM BLOOD Glucose-109* UreaN-15 Creat-1.0 Na-143 
K-5.0 Cl-110* HCO3-22 AnGap-16
___ 08:35PM BLOOD CK(CPK)-1145*
___ 08:35PM BLOOD CK-MB-147* MB Indx-12.8*
___ 08:35PM BLOOD cTropnT-0.84*
___ 03:54AM BLOOD Calcium-7.2* Phos-3.9 Mg-1.7 Cholest-92
___ 03:54AM BLOOD Triglyc-48 HDL-31 CHOL/HD-3.0 LDLcalc-51
___ 09:35AM BLOOD Type-ART pO2-80* pCO2-30* pH-7.46* 
calTCO2-22 Base XS-0 Intubat-NOT INTUBA Comment-NASAL ___

CXR: No acute cardiopulmonary process

___ TTE:
The left ventricular cavity is mildly dilated. LV systolic 
function appears depressed with inferior, inferolateral and 
apical hypokinesis/?akinesis (however views suboptimal; 
estimated ejection fraction ?35-40). Right ventricular chamber 
size is normal. with normal free wall contractility. The aortic 
valve leaflets are mildly thickened. The aortic valve is not 
well seen. There is no aortic valve stenosis. No aortic 
regurgitation is seen. No mitral regurgitation is seen. There is 
no pericardial effusion.  

___ Cardiac Catheterization:
1.  Coronary angiography of this right dominant system revealed 
3 vessel 
coronary artery disease.  The LMCA had a 60% distal ulcerated 
lesion. 
The LAD had a widely patent previously placed stent.  The origin 
of the 
LCx had an 80% stenosis.  The proximal RCA was 90% stenosed, 
with a 100% 
distal RCA occlusion and left to right collaterals. 
2.  Resting hemodynamics revealed elevated right and left sided 
filling 
pressures, with RVEDP and LVEDP of 20 and 27 mm Hg, 
respectively.  Mean 
PCWP was elevated at 19 mm Hg.  Systemic arterial pressures were 
low 
with aortic systolic pressure of 92 mm Hg and mean arterial 
pressure of 
64 mm Hg.  Cardiac index was 3.07 l/min/m2. 
3.  Left ventriculography revealed no mitral regurgitation and a 
large 
area of anteroapical and inferoapical dyskinesis.  Estimated 
left ventricular ejection fraction was 35%. 
4.  40 cc IABP was placed in the setting of extensive myocardial 
infarction, hypotension, and impending CABG. 

RADIOLOGY  Final Report
CHEST (PORTABLE AP)  ___ 1:30 ___
CHEST (PORTABLE AP)
Reason: ?pneumonia 
UNDERLYING MEDICAL CONDITION:
___ year old man with altered mental status, wbc 14.4 (? 
infiltrate) 
REASON FOR THIS EXAMINATION:
?pneumonia 
SINGLE AP PORTABLE VIEW OF THE CHEST
REASON FOR EXAM: Elevated white blood count and altered mental 
status.
Comparison is made with prior study ___.
Mild cardiomegaly is accentuated by low lung volumes, unchanged 
from prior study. The ___ has been extubated. There is no 
pneumothorax. The right lung is clear. There is a small left 
pleural effusion. Ill-defined opacity in the left base is 
persistent, could be atelectasis or pneumonia. ___ is post 
median sternotomy and CABG.
___. ___
___. ___

___ ECHOCARDIOGRAPHY REPORT
MC ___       ___ MRN:   ___       TEE 
(Complete) Done ___ at 12:08:58 ___      FINAL  
Referring Physician     ___  
___.
Division of Cardiothoracic Surg
___  Status: Inpatient DOB: ___ 
Age (years): ___ M  Hgt (in):  
BP (mm Hg): /  Wgt (lb):  
HR (bpm):  BSA (m2):  
Indication: Intraoperative TEE for CABG with IABP  
ICD-9 Codes: 410.92, 440.0, 424.0, 424.2 
___ Information  
Date/Time: ___ at 12:08    ___ MD: ___, MD 
___ Type: TEE (Complete) Sonographer: ___, MD 
Doppler: Full Doppler and color Doppler ___ Location: 
Anesthesia West OR cardiac 
Contrast: None Tech Quality: Suboptimal 
Tape #: ___-: Machine: ___ 
Echocardiographic Measurements  
Results  Measurements  Normal Range  
Left Ventricle - Diastolic Dimension:  5.0 cm  <= 5.6 cm  
Left Ventricle - Ejection Fraction:  40% to 45%  >= 55%  
Aorta - Sinotubular Ridge:  3.0 cm  <= 3.0 cm  
Aorta - Ascending:  3.2 cm  <= 3.4 cm  
Aortic Valve - LVOT diam:  2.4 cm     
Findings  
LEFT ATRIUM: No spontaneous echo contrast or thrombus in the 
___ or the RA/RAA. All four pulmonary veins identified and 
enter the left atrium. 
RIGHT ATRIUM/INTERATRIAL SEPTUM: A catheter or pacing wire is 
seen in the RA and extending into the RV. No ASD by 2D or color 
Doppler. 
LEFT VENTRICLE: Wall thickness and cavity ___ were 
obtained from 2D images. Normal LV cavity size. Mild-moderate 
regional LV systolic dysfunction. Moderately depressed LVEF. 
RIGHT VENTRICLE: Focal apical hypokinesis of RV free wall. 
AORTA: Focal calcifications in aortic root. Normal ascending 
aorta diameter. Focal calcifications in ascending aorta. Simple 
atheroma in aortic arch. Simple atheroma in descending aorta. 
AORTIC VALVE: Normal aortic valve leaflets (3). No AS. No AR. 
MITRAL VALVE: Normal mitral valve leaflets. Mild (1+) MR. 
___ VALVE: Normal tricuspid valve leaflets. Mild [1+] TR. 
PULMONIC VALVE/PULMONARY ARTERY: Pulmonic valve not well seen. 
Physiologic (normal) PR. 
PERICARDIUM: Trivial/physiologic pericardial effusion. 
GENERAL COMMENTS: A TEE was performed in the location listed 
above. I certify I was present in compliance with ___ 
regulations. The ___ was under general anesthesia throughout 
the procedure. No TEE related complications. Suboptimal image 
quality. The ___ appears to be in sinus rhythm. Results were 
personally reviewed with the MD caring for the ___.  
Conclusions  
PRE CPB No spontaneous echo contrast or thrombus is seen in the 
body of the left atrium/left atrial appendage or the body of the 
right atrium/right atrial appendage. No atrial septal defect is 
seen by 2D or color Doppler. The left ventricular cavity size is 
normal. There is mild to moderate regional left ventricular 
systolic dysfunction with apical severe hypokinesis/akinesis. No 
apical thrombus is seen. Overall left ventricular systolic 
function is mildly to moderately depressed (LVEF= 40 %). The 
right ventricle displays normal mid and basal function with mild 
to moderate focal hypokinesis of the apical free wall. There are 
simple atheroma in the aortic arch. There are simple atheroma in 
the descending thoracic aorta. The aortic valve leaflets (3) 
appear structurally normal with good leaflet excursion and no 
aortic stenosis. No aortic regurgitation is seen. The mitral 
valve leaflets are structurally normal. Mild (1+) mitral 
regurgitation is seen. There is a trivial/physiologic 
pericardial effusion. An intra-aortic balloon pump is seen in 
the descending aorta with its tip 2 cm below the distal aortic 
arch.
POST-CPB The focal wall abnormalities noted in the pre-bypass 
study are unchanged. The mitral regurgitation may be slightly 
improved. No other significant changes.   
I certify that I was present for this procedure in compliance 
with ___ regulations.
Electronically signed by ___, MD, Interpreting physician 
___ ___ 15:29  
   

___ 06:30AM BLOOD WBC-14.8* RBC-3.45* Hgb-10.5* Hct-30.3* 
MCV-88 MCH-30.4 MCHC-34.6 RDW-14.4 Plt ___
___ 06:30AM BLOOD Plt ___
___ 03:10AM BLOOD ___ PTT-22.9 ___
___ 06:30AM BLOOD Glucose-102 UreaN-22* Creat-0.8 Na-137 
K-4.0 Cl-103 HCO3-22 AnGap-___dmitted as transfer from ___ with acute MI on 
___. Brought to cath lab on ___  found to have left main and 
2VD/EF 35%. Intra Aortic Ballon Pump placed at that time. CT 
surgery consulted and ___ brought to operating room on ___ 
for coronary artery bypass grafts. ___ tolerated the surgery 
well and ___ transferred to the cardiac surgery ICU in stable 
condition. He remained intubated and hemodynamically stable on 
the day of surgery. On POD1 the IABP was weaned and removed, 
after which his sedation was stopped. An attempt to wean from 
ventilator was unsuccessful. On POD2 he was again weaned and 
extubated however required reintubation because of agitation. 
Neurology and psychiatry were consulted. The ___ had ahead 
CT that was negative as well as an MRI and Lumbar puncture that 
were also negative. Over the next several days his neuro status 
cleared and he was successfully extubated. He did remain 
delerious for several additional days but was ultimately 
transferred to the stepdown floor on POD 12. The ___ also 
experienced a Gout flare during this time, rheumatology was 
consulted and he was started on Colchicine and Indocin. Over the 
next several days he continued to make slow progress in his ADL 
and ambulation and on POD 15 it was decided he was stable and 
ready for discharge to ___. He will followup with Dr 
___ in 4 weeks 
 
Medications on Admission:
atenolol 50 mg daily
lisinopril 20 mg daily
lipitor 10 mg daily
aspirin 325 mg daily
niacin 500 mg daily

 
Discharge Medications:
1. Aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
2. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
3. Atorvastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
4. Niacin 500 mg Capsule, Sustained Release Sig: One (1) 
Capsule, Sustained Release PO DAILY (Daily).
Disp:*30 Capsule, Sustained Release(s)* Refills:*2*
5. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
6. Thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
7. Furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily) 
for 2 weeks.
Disp:*14 Tablet(s)* Refills:*0*
8. Lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
9. Indomethacin 25 mg Capsule Sig: Two (2) Capsule PO TID (3 
times a day) as needed.  
10. Atenolol 50 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).  
11. Colchicine 0.6 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
s/p CABGx3(LIMA-LAD, SVG-OM, ___. Post-op delerium
PMH: CAD s/p MI-stent LAD w/IABP, HTN, ^chol, Piloneal cyst 
removal,Tonsillectomy

 
Discharge Condition:
stable

 
Discharge Instructions:
Keep wounds clean and dry. OK to shower, no bathing or swimming.
Take all medications as prescribed.
Call for any fever, redness or drainage from wounds
 
Followup Instructions:
___